US08536203B2
To a stirred solution of 5-(trifluoromethyl)pyridin-2-amine (0.405 g, 2.5 mmol) in a mixture of ethanol (12.5 mL) and acetic acid (0.25 mL) at room temperature was added 3,4-dimethoxy-5-nitrobenzaldehyde (0.53 g, 2.5 mmol). The reaction was heated at reflux temperature for two hours then ethanol was evaporated. The oily residue was dissolved in a mixture of methanol (17 mL) and 1,2-dimethoxyethane (7.5 mL), whereupon 1-(isocyanomethylsulfonyl)-4-methylbenzene (TOSMIC) (0.73 g, 3.75 mmol) and potassium carbonate (0.69 g, 5 mmol) were added in one portion. The resulting mixture was stirred at reflux temperature for 3 hours. The reaction was evaporated to dryness, and then taken up in dichloromethane (50 ml). The organic phase was washed with water (50 mL) and then dried over anhydrous magnesium sulphate, filtered and evaporated to leave brown oil. Column chromatography over silica gel (petroleum ether-ethyl acetate 9:1) gave 2-(5-(3,4-dimethoxy-5-nitrophenyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine, 0.542 g (55%).

reactant | 5-(trifluoromethyl)pyridin-2-amine | 2.5 mmol, 0.405 g | FC(C=1C=CC(=NC1)N)(F)F | C6H5F3N2
reactant | 3,4-dimethoxy-5-nitrobenzaldehyde | 2.5 mmol, 0.53 g | COC=1C=C(C=O)C=C(C1OC)[N+](=O)[O-] | C9H9NO5
reactant | 1-(isocyanomethylsulfonyl)-4-methylbenzene | 3.75 mmol, 0.73 g | [N+](#[C-])CS(=O)(=O)C1=CC=C(C=C1)C | C9H9NO2S
reactant | potassium carbonate | 5 mmol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 12.5 mL | C(C)O | C2H6O
solvent | acetic acid | 0.25 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 17 mL | CO | CH4O
solvent | 1,2-dimethoxyethane | 7.5 mL | COCCOC | C4H10O2
product | 2-(5-(3,4-dimethoxy-5-nitrophenyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=CN=CN1C1=NC=C(C=C1)C(F)(F)F | C17H13F3N4O4
